US07678798B2
6-(Trifluoromethyl)indan-1-ol
To a solution of 6-(trifluoromethyl)indan-1-one (2.20 g, 11 mmol) in THF (30 mL) was added sodium borohydride (0.50 g, 13 mmol). After being stirred for 30 min, methanol (10 mL) was added slowly. Stirring was continued for 2 hrs. The reaction was quenched by addition of an aqueous ammonium chloride solution. The two layers were separated and the water layer was extracted by ether. The combined organic layers were washed with water, brine, dried over MgSO4 and concentrated. Column chromatography on silica (10-15% EtOAC in hexane) gave the title compound (1.52 g, 68%) as an oil. MS calculated for C10H9F3O: (M+H)+ 203; found 185.0 (M−H2O+1)+.

reactant | 6-(trifluoromethyl)indan-1-one | 11 mmol, 2.20 g | FC(C1=CC=C2CCC(C2=C1)=O)(F)F | C10H7F3O
reactant | sodium borohydride | 13 mmol, 0.50 g | [BH4-].[Na+]
reactant | methanol | 10 mL | CO | CH4O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 6-(Trifluoromethyl)indan-1-ol | 1.52 g, 68% | FC(C1=CC=C2CCC(C2=C1)O)(F)F | C10H9F3O
